US04659706
A mixture of 5-bromo-3-hydroxytoluene (93 g, 0.5 m) and sodium hydroxide (21 g, 0.5 m) in water (200 ml) is stirred at 10°, treated with dimethyl sulfate (63 g, 0.5 m) over 1 hour, refluxed for 2 hours and cooled. The mixture is diluted with water and extracted with ether. The ether extract is washed, dried with sodium sulfate and concentrated in vacuo to give 5-bromo-3-methoxytoluene.

reactant | 5-bromo-3-hydroxytoluene | 93 g | BrC=1C=C(C=C(C1)C)O | C7H7BrO
reactant | sodium hydroxide | 21 g | [OH-].[Na+]
reactant | dimethyl sulfate | 63 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 200 ml | O | H2O
product | 5-bromo-3-methoxytoluene | BrC=1C=C(C=C(C1)C)OC | C8H9BrO
